US08314109B2
A mixture of 3.18 g of caesium carbonate, 25 mL of dioxane, 9.3 mL of water, 500 mg of 2-iodopyridine, 89 mg of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium and 848 mg of ethyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxylate hydrobromide (1:1) is heated for 2 hours at 110° C., and then partially concentrated, diluted with dichloromethane and filtered. The organic phase is washed with water and dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. The residue is chromatographed on a silica cartridge, eluting with a mixture of dichloromethane and cyclohexane (80/20). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure to give 317 mg of ethyl 6-(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate in the form of a brown oil.

reactant | caesium carbonate | 3.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
reactant | 2-iodopyridine | 500 mg | IC1=NC=CC=C1 | C5H4IN
reactant | ethyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)imidazo[1,2-a]pyridine-2-carboxylate hydrobromide | 848 mg | Br.CC1(OB(OC1(C)C)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC)C
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 89 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 9.3 mL | O | H2O
product | ethyl 6-(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 317 mg | N1=C(C=CC=C1)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C15H13N3O2
